US08247576B2
8D. 3-(4-Bromo-phenyl)-3-(4-chloro-phenyl)-N-methyl-propionamide
A mixture of 3-(4-bromo-phenyl)-3-(4-chloro-phenyl)-propionic acid (0.25 g, 0.74 mmol) and 1-hydroxybenatriazole (0.12 g, 0.88 mmol) in dichloromethane (3 ml) was stirred for 15 minutes before addition of napthylamine (40% solution in water, 0.11 μl, 1.47 mmol) and 1-(3-dimethylaminopropyl)-ethylcarbodiimide hydrochloride (0.17 g, 0.88 mmol). The reaction mixture was stirred for 16 hours, solvent removed under reduced pressure and the residue partitioned between ethyl acetate and 1N HCl. The organic layer was separated, washed with saturated sodium hydrogen carbonate, brine, dried (MgSO4), filtered and concentrated to yield the title compound which was used in the next step without further purification. LC/MS: (PS-A2) Rt 3.20 [M+H]+ 353.95.

reactant | 3-(4-bromo-phenyl)-3-(4-chloro-phenyl)-propionic acid | 0.74 mmol, 0.25 g | BrC1=CC=C(C=C1)C(CC(=O)O)C1=CC=C(C=C1)Cl | C15H12BrClO2
reactant | napthylamine | 1.47 mmol, 0.11 μl | C=1C=CC=2C=C(C=CC2C1)N | C10H9N
reactant | 1-(3-dimethylaminopropyl)-ethylcarbodiimide hydrochloride | 0.88 mmol, 0.17 g | Cl.CN(CCCC(C)N=C=N)C
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 3-(4-Bromo-phenyl)-3-(4-chloro-phenyl)-N-methyl-propionamide | BrC1=CC=C(C=C1)C(CC(=O)NC)C1=CC=C(C=C1)Cl | C16H15BrClNO
